* E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\Biasing\BiasingStep3.asc
V1 N010 P001 SINE(0 {V_in} 10meg 0 0 0) AC 1 0
E1 N006 0 N010 0 {L_A}
C1 N007 N006 {C_A}
R1 N001 N007 {Rphz}
V2 N011 0 595m
V3 N014 0 900m
I2 0 N012 {ID_DP}
M1 N011 N001 N015 substrateGround C18nmos l={L_DP} w={W_DP}
M2 N012 N014 N015 substrateGround C18nmos l={L_DP} w={W_DP}
M3 N002 N012 0 substrateGround C18nmos l={L_N} w={W_N}
M4 N003 N005 N002 N003 C18pmos l={L_P} w={W_P}
V6 N003 0 1.8
C2 N002 N001 {C_F}
R2 N002 N001 500Meg
R3 N008 N002 {R_L}
C3 Out N009 10u
R4 Out 0 {R_L}
V7 0 substrateGround 20m
L1 N009 N008 {Lphz}
V8 P001 0 SINE(0 {V_in} 12.5meg 0 0 0) AC 0 0
M9 N013 N013 0 substrateGround C18nmos l={LN_vol} w={WN_vol} m=6
M10 N003 N004 N004 N003 C18pmos l={LP_vol} w={WP_vol} m=6
R8 N004 N013 {R_vol}
C4 N005 N012 5p
M11 N012 N013 0 substrateGround C18nmos l={LN_vol} w={WN_vol} m=5
M12 N003 N004 N005 N003 C18pmos l={LP_vol} w={WP_vol} m=5
R5 N005 N012 {R_vol}
M5 N017 N017 N018 substrateGround C18nmos l=360n w=35u m=4
R6 N018 0 100
R7 N016 N017 3.62k
V4 N016 0 1.8
M6 N015 N017 N019 substrateGround C18nmos l=360n w=35u m=80
R9 N019 0 4
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomsa\Documents\LTspiceXVII\lib\cmp\standard.mos
.param L_A=0.5 C_A=10e-12 C_F=5e-12 R_L=50
.param Rphz=13.81 Lphz=0.4u
.param L_DP=300n W_DP=800u ID_DP=3.6m
.param L_N=180n L_P=180n W_N=100u W_P=350u
.op
.lib 'E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\CMOS18TT.lib'
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
.param V_in=0.16
;tran 0 1600n 0 1n
.ac dec 20 1k 10G
;noise V(out) V1 dec 20 10k 30Meg
.param LN_vol=180n LP_vol=180n WN_vol=10u WP_vol=35u
.param R_vol 3k
.backanno
.end
