* E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\Biasing\BiasingStep4.asc
V1 N017 P001 SINE(0 {V_in} 5meg 0 0 0) AC 1 0
E1 N015 0 N017 0 {L_A}
C1 N016 N015 {C_A}
R1 N001 N016 {Rphz}
V2 N003 0 1.8
V3 N004 0 900m
M1 N003 N001 N014 substrateGround C18nmos l={L_DP} w={W_DP}
M2 N009 N004 N014 substrateGround C18nmos l={L_DP} w={W_DP}
M3 N002 N009 0 substrateGround C18nmos l={L_N} w={W_N}
M4 N005 N008 N002 N005 C18pmos l={L_P} w={W_P}
V6 N005 0 1.8
C2 N002 N001 {C_F}
R2 N002 N001 500Meg
R3 N010 N002 {R_L}
C3 Out N011 10u
R4 Out 0 {R_L}
V7 0 substrateGround 20m
L1 N011 N010 {Lphz}
V8 P001 0 SINE(0 0 12.5meg 0 0 0) AC 0 0
M9 N013 N013 0 substrateGround C18nmos l={LN_vol} w={WN_vol} m=6
M10 N005 N007 N007 N005 C18pmos l={LP_vol} w={WP_vol} m=6
R8 N007 N013 {R_vol}
C4 N008 N009 5p
M11 N009 N013 0 substrateGround C18nmos l={LN_vol} w={WN_vol} m=5
M12 N005 N007 N008 N005 C18pmos l={LP_vol} w={WP_vol} m=5
R5 N008 N009 {R_vol}
M5 N012 N012 0 substrateGround C18nmos l={L1_cur1} w={W1_cur1} m={M1_cur1}
R7 N005 N012 {R_cur1}
M6 N014 N012 0 substrateGround C18nmos l={L2_cur1} w={W2_cur1} m={M2_cur1}
R10 N006 0 {R_cur2}
M7 N005 N006 N006 N005 C18pmos l={L1_cur2} w={W1_cur2} m={M1_cur2}
M8 N005 N006 N009 N005 C18pmos l={L2_cur2} w={W2_cur2} m={M2_cur2}
C5 N012 0 100n
C6 N006 0 100n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomsa\Documents\LTspiceXVII\lib\cmp\standard.mos
.param L_A=0.5 C_A=10e-12 C_F=5e-12 R_L=50
.param Rphz=13.81 Lphz=0.4u
.param L_DP=250n W_DP=800u ID_DP=3m
.param L_N=180n L_P=180n W_N=100u W_P=350u
.op
.lib 'E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\CMOS18TT.lib'
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
.param V_in=2
;tran 0 800n 0 1n
.ac dec 20 1k 10G
;noise V(out) V1 dec 20 10k 30Meg
.param LN_vol=180n LP_vol=180n WN_vol=10u WP_vol=35u R_vol=3k
.param L1_cur1=1u W1_cur1=350u L2_cur1=1u W2_cur1=347u M1_cur1=2 M2_cur1=12 R_cur1=1020
.param L1_cur2=1u W1_cur2=40u L2_cur2=1u W2_cur2=52u M1_cur2=1 M2_cur2=2 R_cur2=100
.backanno
.end
